US06660744B1
N2-{4-[4-Amino-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]phenyl}-5,7-dimethyl-1,3-benzoxazol-2-amine Dihydrochloride
tert-Butyl 4-(4-amino-3-{4-[(5,7-dimethyl-1,3-benzoxazol-2-yl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-piperidinecarboxylate (142 mg, 0.256 mmol) was dissolved in acetone (7 mL) and 6N aqueous hydrochloric acid (1.4 mL). The reaction was then heated at 45° C. which yielded a precipitate. After 2.5 hours, the precipitate was collected by vacuum filtration, washed with a minimal amount of acetone and dried on the lyophilizer to N2-{4-[4-amino-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]phenyl}-5,7-dimethyl-1,3-benzoxazol-2-amine dihydrochloride as an orange solid (130 mg, 96%); -HPLC 10.436 min, 96% purity (5% to 85% acetonitrile/0.1M aqueous ammonium acetate, buffered to pH 4.5, over 20 min at 1 mL/min; λ=254 nm; Deltapak C18, 300 Å, 5 μm, 150×3.9 mm column); m/z (MH+)=455.3.

reactant | tert-Butyl 4-(4-amino-3-{4-[(5,7-dimethyl-1,3-benzoxazol-2-yl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-piperidinecarboxylate | 0.256 mmol, 142 mg | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C=C(C=C1C)C)C1CCN(CC1)C(=O)OC(C)(C)C | C30H34N8O3
reactant | hydrochloric acid | 6N, 1.4 mL | Cl | ClH
solvent | acetone | 7 mL | CC(=O)C | C3H6O
product | N2-{4-[4-Amino-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]phenyl}-5,7-dimethyl-1,3-benzoxazol-2-amine Dihydrochloride | Cl.Cl.NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C=C(C=C1C)C)C1CCNCC1 | InChI=1S/C25H26N8O.2ClH/c1-14-11-15(2)22-19(12-14)31-25(34-22)30-17-5-3-16(4-6-17)21-20-23(26)28-13-29-24(20)33(32-21)18-7-9-27-10-8-18;;/h3-6,11-13,18,27H,7-10H2,1-2H3,(H,30,31)(H2,26,28,29);2*1H
